US07452892B2
Preparation of Reagent 3-(chloromethyl)-2-ethyl-6-(trifluoromethyl)pyridine
The title compound was prepared from (Z)-4-amino-1,1,1-trifluorobut-3-en-2-one and methyl 3-oxopentanoate analogously to the way 3-(chloromethyl)-2-methyl-6-(trifluoromethyl)pyridine was prepared from (Z)-4-amino-1,1,1-trifluorobut-3-en-2-one and methyl acetoacetate in three steps: 1. TFA-mediated cyclocondensation to methyl 2-ethyl-6-(trifluoromethyl)nicotinate (HPLC/MS: retention time=3.2 min, [M+H]30 =234); 2. reduction with lithium aluminum hydride to (2-ethyl-6-(trifluoromethyl)pyridin-3-yl)methanol (HPLC/MS: retention time=2.4 min, [M+H]+=206); and 3. reaction with SOCl2 to afford the title compound (HPLC/MS: retention time=3.3 min, [M+H]30 =224).

reactant | (Z)-4-amino-1,1,1-trifluorobut-3-en-2-one | N\C=C/C(C(F)(F)F)=O | C4H4F3NO
reactant | methyl 3-oxopentanoate | O=C(CC(=O)OC)CC | C6H10O3
reactant | 3-(chloromethyl)-2-methyl-6-(trifluoromethyl)pyridine | ClCC=1C(=NC(=CC1)C(F)(F)F)C | C8H7ClF3N
reactant | methyl acetoacetate | C(CC(=O)C)(=O)OC | C5H8O3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | methyl 2-ethyl-6-(trifluoromethyl)nicotinate | C(C)C1=C(C(=O)OC)C=CC(=N1)C(F)(F)F | C10H10F3NO2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (2-ethyl-6-(trifluoromethyl)pyridin-3-yl)methanol | C(C)C1=NC(=CC=C1CO)C(F)(F)F | C9H10F3NO
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
product | 3-(chloromethyl)-2-ethyl-6-(trifluoromethyl)pyridine | ClCC=1C(=NC(=CC1)C(F)(F)F)CC | C9H9ClF3N
